US07101899B1
4-[2-amino-4-(4-methoxyphenyl)-1,3-thiazol-5-yl]-2-pyridylamine
Bromine (0.68 mL, 13 mmol) was added to a solution of 1-(4-methoxyphenyl)-2-(2-tert-butoxycarbonylamino-4-pyridyl)ethanone (4.5 g, 13 mmol) in acetic acid (100 mL) and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated. The residue was dissolved in acetonitrile (40 mL) and to the solution was added thiourea (1.1 g, 14 mmol) and triethylamine (1.9 mL, 14 mmol) were added and the mixture was stirred at 80° C. for 2 hours. The reaction mixture was cooled to room temperature and concentrated. A saturated aqueous sodium hydrogencarbonate (200 mL) was added to the residue and the resulting solid was collected by filtration and washed with water. 2N hydrochloric acid (35 mL) was added to the solids and the mixture was stirred at 100° C. for 45 minutes. The reaction mixture was cooled to room temperature and, thereafter, 8N aqueous sodium hydroxide (10 mL) and a saturated aqueous solution of sodium hydrogencarbonate (100 mL) were added. The resulting crude crystals were collected by filtration, and were washed with water. The crude crystals were recrystallized from ethanol to obtain 2.7 g of the title compound (9.1 mmol, yield 69%).

reactant | Bromine | 13 mmol, 0.68 mL | BrBr | Br2
reactant | 1-(4-methoxyphenyl)-2-(2-tert-butoxycarbonylamino-4-pyridyl)ethanone | 13 mmol, 4.5 g | COC1=CC=C(C=C1)C(CC1=CC(=NC=C1)NC(=O)OC(C)(C)C)=O | C19H22N2O4
reactant | thiourea | 14 mmol, 1.1 g | NC(=S)N | CH4N2S
reactant | triethylamine | 14 mmol, 1.9 mL | C(C)N(CC)CC | C6H15N
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 4-[2-amino-4-(4-methoxyphenyl)-1,3-thiazol-5-yl]-2-pyridylamine | 9.1 mmol, 2.7 g, yield 69% | NC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC(=NC=C1)N | C15H14N4OS
